US04112108
A mixture of 6.3 g. (0.025 mole) o-(5-phenyl-3-isoxazolyl)benzyl alcohol in 125 ml. acetone is added dropwise at room temperature to 50 ml. (0.1 mole) of a reagent prepared by dissolving 100 g. (1.0 mole) chromium trioxide in 160 g. of concentrated sulfuric acid and diluting with water to form a 500 ml. solution. The mixture is stirred for 3 hours at room temperature and then filtered. The acetone is evaporated in vacuo and the residue partitioned between ether and water. The resulting layers are separated and the ether washed with water, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The resulting solid is triturated with cold ether and filtered to give o-(5-phenyl-3-isoxazolyl) benzoic acid; m.p. 144.5° to 146.5° C.

reactant | o-(5-phenyl-3-isoxazolyl)benzyl alcohol | 0.025 mole | C1(=CC=CC=C1)C1=CC(=NO1)C1=C(CO)C=CC=C1 | C16H13NO2
reactant | acetone | CC(=O)C | C3H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
catalyst | chromium trioxide | 1.0 mole | [O-2].[O-2].[O-2].[Cr+6]
product | o-(5-phenyl-3-isoxazolyl) benzoic acid | C1(=CC=CC=C1)C1=CC(=NO1)C1=C(C(=O)O)C=CC=C1 | C16H11NO3
